US07943622B2
Step 1. Synthesis tert-butyl 4-(5-(2-chlorophenyl)furan-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate
[1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (1:1) (7 mg, 0.008 mmol) was added to a mixture of tert-butyl 4-(5-bromofuran-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (75 mg, 0.16 mmol), 2-chlorobenzeneboronic acid (50 mg, 0.32 mmol) and sodium carbonate (34 mg, 0.32 mmol) in toluene (4 mL), 1,4-dioxane (1 mL), and water (1 mL). The reaction mixture was heated to 80° C. for 2 h. Upon cooling to room temperature, the reaction mixture was filtered, concentrated under reduced pressure, and purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 66.6 mg (68%, ˜85% pure) of the TFA salt of the desired product. LC-MS: RT=10.08 min, [M+H]+=498.2.

reactant | dichloromethane | 0.008 mmol, 7 mg | ClCCl | CH2Cl2
reactant | tert-butyl 4-(5-bromofuran-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.16 mmol, 75 mg | BrC1=CC=C(O1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C20H24BrN3O5
reactant | 2-chlorobenzeneboronic acid | 0.32 mmol, 50 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 0.32 mmol, 34 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | tert-butyl 4-(5-(2-chlorophenyl)furan-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | ClC1=C(C=CC=C1)C1=CC=C(O1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C26H28ClN3O5
